US06723719B1
1-(2-Methoxyethyl)-1,2,4-triazole
2-Bromoethyl methyl ether (6.7 ml, 0.072 mol) was added to a stirred, ice-cooled suspension of 1,2,4-triazole (5.0 g, 0.072 mol) and potassium carbonate (10 g, 0.072 mol) in acetone (50 ml). After a further 3 hours the cooling bath was removed and stirring continued for 18 hours at room temperature. The reaction mixture was filtered, the filtrate evaporated under reduced pressure and the residue purified by column chromatography on silica gel, using dichloromethane:methanol (95:5) as eluant, to provide the title compound (5.2 g) as a clear oil. δ (CDCl3): 3.32 (3H, s), 3.74 (2H, t), 4.34 (2H, t), 7.92 (1H, s), 8.14 (1H, s). LRMS: m/z 128 (M+1)+.

reactant | 2-Bromoethyl methyl ether | 0.072 mol, 6.7 ml | COCCBr | C3H7BrO
reactant | 1,2,4-triazole | 0.072 mol, 5.0 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.072 mol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(2-Methoxyethyl)-1,2,4-triazole | 5.2 g | COCCN1N=CN=C1 | C5H9N3O
